US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(3-quinolinyl )-10b-methyl-1,2,3,4,4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-{4aR)-(10bR)-4-methyl-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one-8-boronic acid (178mg, 0.65 mmol), tetrakis(triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 3-bromoquinoline (135 mg, 0.65 mmol), 0.65 mL of 2M sodium carbonate solution and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 24 h. An additional 23 mg of the palladium reagent was added, and the mixture was heated an additional 24 h. The mixture was cooled, diluted with chloroform (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent) to give 130 mg (56%) of the title compound as an amorphous solid. mp 180°-185°. FDMS: m/e=356. α[D]589 =+80.22 (c=0.37, chloroform).

reactant | 3-bromoquinoline | 0.65 mmol, 135 mg | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | palladium | 23 mg | [Pd] | Pd
product | (+)-(4aR)-(10bR)-4-methyl-8-(3-quinolinyl )-10b-methyl-1,2,3,4,4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one | 130 mg, 56% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C=3C=NC1=CC=CC=C1C3)C)=O | C24H24N2O
